US05155122
1,1-Dimethylethyl 2-[3,5-bis(1,1-dimethylethyl)-4-hydroxybenzoyl]hydrazine carboxylic acid (4.0 g , 0.011 mole) in tetrahydrofuran (100 ml) is treated with a mixture of water (12 ml) and concentrated hydrochloric acid (30 ml). The resulting mixture is heated on a steam-bath. After 20 minutes the mixture is stripped of volatiles under reduced pressure. The residue is dissolved in water (100 ml) and treated with 1M NaOH until the solution is slightly basic. The product is extracted into ether (600 ml) and the organic layer is washed with saturated aqueous NaCl and dried over MgSO4. Filtration and concentration provides a solid which is recrystallized from isopropyl ether/hexane to yield 1.9 g (2.9 g theor., 66%) of 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzoic acid, hydrazide, mp 187°-188° C.

reactant | 1,1-Dimethylethyl 2-[3,5-bis(1,1-dimethylethyl)-4-hydroxybenzoyl]hydrazine carboxylic acid | 0.011 mole, 4.0 g | CC(C)(C)N(NC(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)C(=O)O | C20H32N2O4
reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | NaOH | 1M | [OH-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | water | 12 ml | O | H2O
product | 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzoic acid, hydrazide | 1.9 g, 66% | CC(C)(C)C=1C=C(C(=O)NN)C=C(C1O)C(C)(C)C | C15H24N2O2
